US04254135
Trans-4-chloro-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)benzamide.
A solution of 36.8 g of trans-4-amino-1-cyclohexyl-3-pyrrolidinol in 600 ml of p-dioxane was mixed with 40 g of powdered anhydrous potassium carbonate and stirred while 35.0 g of p-chlorobenzoyl chloride in 100 ml of p-dioxane was added dropwise. The mixture was stirred at room temperature for 2 hrs, then heated at reflux for 2 hrs. While still hot, 10 ml of water was added to make the precipitate granular; the mixture was filtered and the dioxane reduced to one-half volume. This solution was poured into one liter of water. The precipitate was collected and recrystallized from acetone. Yield was 60.5 g (94%), m.p. 193°-195° C.

reactant | trans-4-amino-1-cyclohexyl-3-pyrrolidinol | 36.8 g | N[C@H]1[C@@H](CN(C1)C1CCCCC1)O | C10H20N2O
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-chlorobenzoyl chloride | 35.0 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | water | 10 ml | O | H2O
solvent | p-dioxane | 600 ml | O1CCOCC1 | C4H8O2
solvent | p-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | Trans-4-chloro-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)benzamide | ClC1=CC=C(C(=O)N[C@@H]2CN(C[C@H]2O)C2CCCCC2)C=C1 | C17H23ClN2O2
